US08258306B2
To a solution of ethyl 2-(4-(phenyl(4-(trifluoromethyl)phenyl)methyl)piperidin-1-yl)acetate (0.2 g, 0.49 mmol) in THF/MeOH (10 mL, 1:1) was added LiOH.H2O (0.15 g, 3.7 mmol). After stirring at rt for 4 h, the solvent was removed under vacuum. The residue was diluted with water and the pH was adjusted to 3 with diluted HCl, extracted with DCM, and the combined organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum to afford pure 2-(4-(phenyl(4-(trifluoromethyl)phenyl)methyl)piperidin-1-yl)acetic acid (0.07 g, 36% yield) as a white solid. MS (ESI, pos. ion) m/z: 378 (M+1).

reactant | ethyl 2-(4-(phenyl(4-(trifluoromethyl)phenyl)methyl)piperidin-1-yl)acetate | 0.49 mmol, 0.2 g | C1(=CC=CC=C1)C(C1CCN(CC1)CC(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C23H26F3NO2
reactant | LiOH.H2O | 3.7 mmol, 0.15 g | O[Li].O
solvent | THF MeOH | 10 mL | C1CCOC1.CO
product | 2-(4-(phenyl(4-(trifluoromethyl)phenyl)methyl)piperidin-1-yl)acetic acid | 0.07 g, 36% yield | C1(=CC=CC=C1)C(C1CCN(CC1)CC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C21H22F3NO2
